datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[S:15][H:22])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[S:15][H:22],10.0416
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:9])([H:7])[H:8],11.506
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7]([H:8])([H:9])[H:10],21.7568
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]2([H:13])[C:4]1([H:14])[C:5]1([H:15])[C:6]([H:16])([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]21[H:20]>>[C:0]1([H:10])=[C:4]([H:14])[C:5]2([H:15])[C:6]([H:16])([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]2([H:20])[C:3]([H:13])[C:2]([H:12])=[C:1]1[H:11],121.7544
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[S:11]=[C:12]([C:13]([S:14][H:17])[H:16])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12](=[S:11])[H:15])([S:14][H:17])[H:16],69.0778
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([S:8][H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:12])[H:3].[C:6]([C:7]([S:8][H:14])[H:13])([H:9])([H:10])[H:11],38.9112
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16]([C:17]([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:8])[H:7],65.6888
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16])[H:8])[H:7],17.0707
[C:0]([C:1](=[O:2])[O:3][C:4]([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([O:2][H:17])=[O:3])([H:12])([H:13])[H:14].[C:4](=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])([H:15])[H:16],188.6984
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([S:11][H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:12])([H:13])[H:14])([S:11][H:16])[H:15],-2.5104
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:12])[H:3].[C:6](=[C:7]([C:8]([H:13])[H:14])[H:11])([H:9])[H:10],41.0032
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([H:11])[H:12]>>[C:0]1([H:4])([H:5])[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:10]1([H:11])[H:12],-0.281165
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[O:10]>>[C:0]([C:1]([N:2][H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][O:10],26.560032
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[O:11][H:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:8][O:11][H:12],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[O:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:18][O:21],11.572944
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20][O:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[H:9][O:20][O:21],199.11656
[C:0](=[O:1])[H:2].[N:3]=[C:4]=[O:5]>>[C-:0]#[O+:1].[H:2][N:3]=[C:4]=[O:5],0.0
[H:0].[c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]#1>>[H:0][c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]1,123.428
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:23]([C:22]([H:26])([H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:12])([H:10])[H:11],2.38488
